************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: MXI4X2
* View Name:     schematic
* Netlisted on:  Jun  4 07:44:55 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    MXI4X2
* View Name:    schematic
************************************************************************

.SUBCKT MXI4X2 A B C D S0 S1 VDD VSS Y
*.PININFO A:I B:I C:I D:I S0:I S1:I VDD:I VSS:I Y:O
Mmn8 net377 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn9 n1 S0 net377 VSS g45n1svt m=1 l=45n w=145n
Mmn6 net369 C VSS VSS g45n1svt m=1 l=45n w=145n
Mmn7 n1 S0b net369 VSS g45n1svt m=1 l=45n w=145n
Mmn4 net361 B VSS VSS g45n1svt m=1 l=45n w=145n
Mmn5 n0 S0 net361 VSS g45n1svt m=1 l=45n w=145n
Mmn3 n0 S0b net349 VSS g45n1svt m=1 l=45n w=145n
Mmn2 net349 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmn12 net345 n1 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn13 n2 S1 net345 VSS g45n1svt m=1 l=45n w=145n
Mmn11 n2 S1b net329 VSS g45n1svt m=1 l=45n w=145n
Mmn1 S1b S1 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 net329 n0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn14 Y n2 VSS VSS g45n1svt m=1 l=45n w=520n
Mmn0 S0b S0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmp9 n1 S0b net320 VDD g45p1svt m=1 l=45n w=215n
Mmp8 net320 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp7 n1 S0 net312 VDD g45p1svt m=1 l=45n w=215n
Mmp6 net312 C VDD VDD g45p1svt m=1 l=45n w=215n
Mmp5 n0 S0b net304 VDD g45p1svt m=1 l=45n w=215n
Mmp4 net304 B VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 n0 S0 net296 VDD g45p1svt m=1 l=45n w=215n
Mmp2 net296 A VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 net284 n1 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp13 n2 S1b net284 VDD g45p1svt m=1 l=45n w=215n
Mmp11 n2 S1 net280 VDD g45p1svt m=1 l=45n w=215n
Mmp10 net280 n0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 S0b S0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp14 Y n2 VDD VDD g45p1svt m=1 l=45n w=780n
Mmp1 S1b S1 VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

